US05120759
A solution of 82.2 g (0.255 mol) of [1R,2R]-(-)-t-butyl-6-fluoro-1,2,3,4-tetrahydro-2-hydroxy-1-isopropyl-2-naphthyl acetate in 500 ml of abs. tetrahydrofuran was added within 30 minutes to a cooled suspension of 19.4 g (0.51 mol) of lithium aluminum hydride in 500 ml of abs. tetrahydrofuran in such a manner that the temperature did not exceed 30°. After stirring for a further 30 minutes the reaction mixture was cooled to 5° and carefully treated in succession with 30 ml of ice-water, 30 ml of 1N sodium hydroxide solution and 90 ml of ice-water. Thereafter, the mixture was stirred for a further 60 minutes and filtered, and the filtrate evaporated under reduced pressure. The oily residue was dissolved in a 20:1 mixture of chloroform and methanol and chromatographed on 900 g of silica gel, yielding [1R,2R]-(-)-2-[6-fluoro-1,2,3,4-tetrahydro-2-hydroxy-1-isopropyl-2-naphthyl]ethanol as white crystals, m.p. 78°-80°; [α]D20 =-83.1° (c=1, methanol).

reactant | [1R,2R]-(-)-t-butyl-6-fluoro-1,2,3,4-tetrahydro-2-hydroxy-1-isopropyl-2-naphthyl acetate | 0.255 mol, 82.2 g | C(C)(=O)O[C@]1([C@](C2=CC=C(C=C2CC1)F)(C(C)C)C(C)(C)C)O | C19H27FO3
reactant | lithium aluminum hydride | 0.51 mol, 19.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1N, 30 ml | [OH-].[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | [1R,2R]-(-)-2-[6-fluoro-1,2,3,4-tetrahydro-2-hydroxy-1-isopropyl-2-naphthyl]ethanol | FC=1C=C2CC[C@@]([C@@H](C2=CC1)C(C)C)(O)CCO | C15H21FO2
